US07575737B1
A typical TMBAOH solution was prepared as follows. Trimethylbutylammonium iodide, 1466.3 g, was dissolved in 1948.6 g deionized water in a 5 liter 3-necked round bottom flask equipped with overhead stirring. A 1 wt. % excess of silver(I) oxide, (99%), 712 g, was added and stirred in the dark for 24 hours. The resulting trimethylbutylammonium hydroxide solution was isolated by filtration.

reactant | Trimethylbutylammonium iodide | [I-].C[N+](CCCC)(C)C
reactant | water | O | H2O
catalyst | silver(I) oxide | [Ag-]=O
product | trimethylbutylammonium hydroxide | [OH-].C[N+](CCCC)(C)C | InChI=1S/C7H18N.H2O/c1-5-6-7-8(2,3)4;/h5-7H2,1-4H3;1H2/q+1;/p-1
